US07345068B2
Lithium hydroxide monohydrate (47 mg, 1.12 mmol) was added to a solution of N-trifluoroacetyl-O-[4-(4-hydroxy-phenoxy)benzyl]-3,5-diiodo-L-tyrosine methyl ester (235 mg, 0.317 mmol) in tetrahydrofuran (2 ml)-water (1 ml) under ice cooling and the mixture was reacted at room temperature for 7.5 hrs., and then at 0-5° C. for 16 hrs. The reaction mixture was diluted with water, adjusted to pH 4-5 under ice cooling with 1N hydrochloric acid (0.79 ml) and stirred at room temperature for 1.5 hrs. The precipitates were collected by filtration, washed with water and ethanol in turn and dried to give O-[4-(4-hydroxyphenoxy)benzyl]-3,5-diiodo-L-tyrosine (188 mg, 90%) as pale yellow crystals.

reactant | Lithium hydroxide monohydrate | 1.12 mmol, 47 mg | O.[OH-].[Li+]
reactant | N-trifluoroacetyl-O-[4-(4-hydroxy-phenoxy)benzyl]-3,5-diiodo-L-tyrosine methyl ester | 0.317 mmol, 235 mg | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)I)OCC1=CC=C(C=C1)OC1=CC=C(C=C1)O)I)=O | C25H20F3I2NO6
reactant | hydrochloric acid | 1N, 0.79 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | O-[4-(4-hydroxyphenoxy)benzyl]-3,5-diiodo-L-tyrosine | 188 mg, 90% | OC1=CC=C(OC2=CC=C(COC3=C(C=C(C[C@H](N)C(=O)O)C=C3I)I)C=C2)C=C1 | C22H19I2NO5
